US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]6-cyclopentyl-3-[(2,3-dichlorophenyl)thio]4-hydroxy-5,6-dihydro-2H-pyran-2-one
The title compound was prepared as described in Example C(70), where 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione was used in place of 3-chloro-6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione and 2,3-dichlorothiophenol was used in place of 6-hydroxy-8-mercaptopurine monohydrate.

reactant | 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC1C(OC(CC1=O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | 2,3-dichlorothiophenol | ClC1=C(C=CC=C1Cl)S | C6H4Cl2S
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]6-cyclopentyl-3-[(2,3-dichlorophenyl)thio]4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C=C(C=CC1OC)CCC1(CC(=C(C(O1)=O)SC1=C(C(=CC=C1)Cl)Cl)O)C1CCCC1 | C25H25Cl3O4S
